US06509329B1
Synthesis of N,N′-bis[3-(3,4,5-Trimethoxyphenyl)benzyl]-piperazine
3-(3,4,5-Trimethoxyphenyl)benzyl chloride (120 mg) and piperazine (17 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 3-(3,4,5-Trimethoxyphenyl)benzyl chloride | 120 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
reactant | piperazine | 17 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[3-(3,4,5-Trimethoxyphenyl)benzyl]-piperazine | COC=1C=C(C=C(C1OC)OC)C=1C=C(CN2CCN(CC2)CC2=CC(=CC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=CC1 | C36H42N2O6
